Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
Chest tube placement ___
 
History of Present Illness:
___ ___ male in ___ visiting family 
with
history of AFib on rivaroxaban, pericardial effusion with
tamponade s/p pericardial window ___ in ___, and
colorectal adenoCA s/p colectomy ___ yrs ago who presented to
___ with increased dyspnea on exertion. 

Patient interviewed in ___.

Patient reports ___ years ago diagnosed with colorectal adenoCA 
s/p
colectomy. At the time he was told he had a pericardial effusion
that his physicians in ___ wanted to tap, but he declined as he
felt asymptomatic. 
In ___ he developed progressive dyspnea and sharp
chest pain, leading to diagnosis of a large pericardial effusion
and concern for tamponade s/p pericardial drain & pericardial
window. He reports a biopsy was done of his pericardium and that
it was "not cancer" but no cause was given to him for why he had
the effusion.
Since this window he has not quite returned to baseline, with
decreased exercise tolerance but was able to go about day to day
activities including daily walking around the neighborhood.

He was prescribed diltiazem and metoprolol for his Afib.

He came to ___ to visit his daughter and was reading about
side effects of his diltiazem and became concerned that 
diltiazem
could be causing his dyspnea so he stopped his diltiazem on his
own.

The patient reports after stopping the diltiazem he initially
felt much better with substantial improvement in his dyspnea.
However, a day and a half later his heart rate picked up to >150
and he began to feel unwell and dyspenic again with some chest
discomfort different from chest pain he had prior to his
pericardial window.

Simultaneously to this, he reports intermittent abdominal
bloating and watery diarrhea for 2 days.

As a result of bloating & diarrhea along with tachycardia, he
agreed to come to ___. 

At ___, workup was notable for:  
- VS 99.1 94 142/83 20 97% RA  
- EKG: NSR, biphasic anterior T waves, no prior for comparison  
- Labs/studies notable for:  
-troponin T negative, BNP 1044, INR 1.8, WBC 6.3, Hgb 12.6, Plt
259, Na 133, K 4.6, Cl 96, CO2 24, BUN 13, Cr 1.08, 
transaminases
normal, AP 156  
-CXR L pleural effusion  
-CTA "at least moderate" pericardial effusion, large left 
pleural
effusion and small right, multiple borderline sized hilar LAD
-Bedside echo: large/circumferential effusion, no definitive e/o
tamponade  

Patient was given: 20 IV Lasix, 500 cc NS. UOP 800 cc to Lasix  
 
He was sent to the ___ ___. On arrival to ___, patient denies
chest pain but endorses dyspnea with exertion. 

VS were notable for:  
98.6  |  95 |  150/90 |  22 |  96% RA  

Exam notable for nonlabored breathing and normal cardiac exam.  
No further workup was done, and he was admitted to the floor.  

On the floor the patient provides the above history.

REVIEW OF SYSTEMS:  
Negative except as listed above in HPI

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension   

2. CARDIAC HISTORY  
- Pericardial effusion s/p pericardial window (___)
- Atrial fibrillation
-  CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
-Colorectal cancer s/p colectomy

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  

 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
VS:  98.3, 138/85, 100, 17, 94%RA 
GEN: well appearing, NAD
HEENT: MMM
CV: Pulsus 7, JVP 6, regular, no mrg
PULM: Absent breathsounds to left mid lung field, mild insp
crackles RLL, no ronchi, no egophony
GI: Midline epigastric scar well healed, soft, mildly distended,
non-tender
EXT: WWP, non-edematous

=======================
DISCHARGE PHYSICAL EXAM
=======================
VS: 24 HR Data (last updated ___ @ 741)
    Temp: 98.1 (Tm 98.5), BP: 109/70 (109-158/70-88), HR: 75
(75-88), RR: 18 (___), O2 sat: 96% (95-98), O2 delivery: RA  
GEN: well appearing, NAD
HEENT: NC/AT, sclera anicteric
NECK: JVP not appreciably elevated
CV: regular rhythm, normal rate, normal S1 and S2, no m/r/g
PULM: Breathing comfortably on room air. Crackles at the left
lung base
GI: soft, non-distended, non-tender
EXT: WWP, non-edematous
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 08:30AM BLOOD WBC-4.1 RBC-4.44* Hgb-12.6* Hct-39.6* 
MCV-89 MCH-28.4 MCHC-31.8* RDW-14.0 RDWSD-45.6 Plt ___
___ 08:30AM BLOOD ___ PTT-28.9 ___
___ 08:30AM BLOOD Glucose-149* UreaN-17 Creat-1.2 Na-140 
K-4.3 Cl-100 HCO3-27 AnGap-13
___ 06:15AM BLOOD ALT-27 AST-15 LD(LDH)-142 AlkPhos-134* 
Amylase-71 TotBili-0.2
___ 08:30AM BLOOD Albumin-3.5 Calcium-9.3 Phos-2.5* Mg-2.2
___ 08:30AM BLOOD TSH-4.4*

=================
PERTINENT STUDIES
=================
TTE ___:
The left atrial volume index is SEVERELY increased. The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. There is moderate symmetric 
left ventricular hypertrophy with a normal cavity size. Overall 
left ventricular systolic function is hyperdynamic. The visually 
estimated left ventricular ejection fraction is 75%. Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is a
30 mmHg (peak) apical left ventricular cavity gradient in the 
setting of a prominent papillary muscle and narrow apical 
orifice. No ventricular septal defect is seen. Tissue Doppler 
suggests a normal left ventricular
filling pressure (PCWP less than 12mmHg). Small right 
ventricular cavity with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic valve
leaflets (?#) are mildly thickened. There is no aortic valve 
stenosis. There is mild to moderate [___] aortic regurgitation. 
The mitral valve leaflets are mildly thickened. There is 
moderate mitral annular calcification. There is mild [1+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is mild
[1+] tricuspid regurgitation. The pulmonary artery systolic 
pressure could not be estimated. There is a large 
circumferential pericardial effusion measuring up to 3.3 cm 
inferolateral to the left ventricle and 0.7 cm
anterior to the right ventricle. Biatrial invagination is seen 
during diastole in the absence of frank tamponade. There are no 
2D or Doppler echocardiographic evidence of tamponade.

IMPRESSION: Large, predominantly inferolateral pericardial 
effusion with biatrial invagination during diastole and small 
right ventricular size appreciated, but no frank tamponade. Mild 
to moderate aortic insufficiency. Mild mitral and tricuspid 
regurgitation. Indeterminate pulmonary pressure.

CXR ___:
FINDINGS:  
  
Moderate left pleural effusion is unchanged. 
Minimal bibasilar atelectasis seen. 
Mild cardiomegaly. 
Visualized bones appear unremarkable. 
  
IMPRESSION:  
  
No interval change in known moderate left pleural effusion.  
Minimal bibasilar 
atelectasis. 

CXR ___:
FINDINGS:  
  
Again seen is enlargement of the cardiac silhouette due to known 
pericardial 
effusion and cardiomegaly.  Left small pleural effusion has 
decreased in size. 
There is a possible loculated component along the left chest 
wall.  There is a 
left basilar chest tube in place with possible small amount of 
loculated air 
adjacent.  The right lung is clear. 
  
IMPRESSION:  
  
Decreased size of left pleural effusion with small amount of 
possible pocket 
of air adjacent to the left basilar chest tube. 
  
Enlarged cardiac silhouette due to pericardial effusion. 

CXR ___:
FINDINGS:  
  
Lungs are well expanded.  Stable cardiomegaly and prominent 
hilar mediastinal 
contours likely due to known cardiac effusion.  Interval removal 
of left lower 
chest pigtail with subcutaneous emphysema.  There is an 
unchanged trace left 
pleural effusion.  No evidence of large pneumothorax.  No 
evidence of 
pneumonia, pulmonary edema. 
  
IMPRESSION:  
  
Interval removal of left chest wall drain with associated 
subcutaneous 
emphysema. 
Trace left pleural effusion unchanged when compared to prior. 

TTE ___:
The estimated right atrial pressure is ___ mmHg. Overall left 
ventricular systolic function is normal. The right ventricle has 
normal free wall motion. There is a moderate loculated 
pericardial effusion most promient
inferolateral to the left ventrile (up to 3cm) and around the 
right atriam (1.3cm) and less elsewhere (<1cm). The effusion is 
echo dense, c/w blood, inflammation or other cellular elements. 
There are no 2D or Doppler
echocardiographic evidence of tamponade.

IMPRESSION: Moderate, partially echofilled/organized loculated 
pericardial effusion without evidence for hemodynamic 
compromise.
Compared with the prior TTE (images reviewed) of ___, the 
findings are similar.

============
MICROBIOLOGY
============
__________________________________________________________
___ 7:28 pm PLEURAL FLUID      LEFT PLEURAL EFFUSION. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

==============
DISCHARGE LABS
==============
___ 08:28AM BLOOD WBC-3.5* RBC-4.68 Hgb-13.5* Hct-42.3 
MCV-90 MCH-28.8 MCHC-31.9* RDW-13.9 RDWSD-45.3 Plt ___
___ 08:28AM BLOOD ___ PTT-35.6 ___
___ 08:28AM BLOOD Glucose-94 UreaN-19 Creat-1.2 Na-140 
K-5.0 Cl-101 HCO3-28 AnGap-11
___ 08:28AM BLOOD Calcium-9.7 Phos-2.9 Mg-2.4
 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of paroxysmal atrial 
fibrillation on rivaroxaban, pericardial effusion with tamponade 
s/p pericardial window ___, and colorectal adenoCA s/p 
colectomy presenting with dyspnea, found to have a recurrent 
large pericardial effusion and a large left pleural effusion. 

#pericardial Effusion
Longstanding pericardial effusion of unclear etiology, had 
surgical window placed ___. Cytology at that time reportedly 
negative for malignancy despite history of colon cancer. No 
evidence of tamponade at this time though effusion is quite 
large. Thoracic surgery consulted and did not recommend repeat 
pericardial window. As the patient was hemodynamically stable, 
symptomatically quite improved after drainage of the pleural 
effusion (see below), and as the pericardial effusion was 
unchanged in size on subsequent TTE, the decision was made to 
defer pericardiocentesis or pericardial window for now.

#pleural effusion
Patient presented with a large left sided pleural effusion. 
Interventional pulmonology was consulted and placed a chest tube 
that drained ~800 cc of fluid from the L pleural space. Fluid 
studies exudative with lymphocytic predominance. Gram stain 
negative and culture no growth to date. ___ normal. cytology 
pending. Based on exam and symptoms did not show evidence of 
significant reaccumulation by the time of discharge. 

#paroxysmal atrial fibrillation
Resumed home rivaroxiban after no plan for surgery. Converted to 
sinus during hospital course. Continued on home metop 
fractionated. Held home dilt and continued to hold at discharge. 


===================
TRANSITIONAL ISSUES
===================
Discharge weight: 79.7kg (175.71 lbs) 
Discharge Cr: 1.2
Pulsus on discharge: 8

[] please monitor for evidence of pleural effusion accumulation, 
recommend CXR in 3 weeks. if fluid recurs, medical thoracoscopy 
would be indicated. he has been given the name and office number 
of ___ at ___ (___). 
[] would repeat echo in ___ weeks or as you feel is indicated to 
monitor for change in pericardial effusion
[] please follow up on pleural fluid studies, including cytology
[] Held home diltiazem as patient not taking, continued holding 
on discharge given normal heart rates during admission.
[] Please make sure patient has follow up with PCP
[] ensure patient has follow up with his oncologist for 
monitoring of his colorectal cancer
[] Please consider sleep study, patient had intermittent 
desaturations while sleeping
[] Mild leukopenia to 3.5, would repeat CBC in one week. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 120 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Rivaroxaban 20 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Rivaroxaban 20 mg PO DAILY 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth every day 
Disp #*10 Tablet Refills:*0 
4.  Tamsulosin 0.4 mg PO QHS  
5. HELD- Diltiazem Extended-Release 120 mg PO DAILY  This 
medication was held. Do not restart Diltiazem Extended-Release 
until discussing with your primary cardiologist.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
================
PRIMARY DIAGNOSIS
================
Pericardial effusion
Pleural effusion

==================
SECONDARY DIAGNOSIS
==================
Paroxysmal atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

You were here because of shortness of breath. You were found to 
have fluid surrounding your heart and within the lining of your 
left lung. You had a tube placed in you chest to drain the fluid 
out of your lung, which was subsequently removed. We do not 
currently have a good understanding of why this fluid 
accumulated. You will likely need further workup determined by 
your primary cardiologist Dr. ___. 

After you leave the hospital, you should take all of your 
medications as presided and attend all of your scheduled 
appointments.

We wish you the best in the future!

Sincerely,

Your ___ care team.

 
Followup Instructions:
___